US07053071B2
Step 2: 9-[3-(1-Adamantyl)-4-benzylphenyl]-6-(2-carboxyphenyl)xanthen-3-one.
To a stirred suspension of 1.00 g (2.15 mmol) of 9-(trifluoromethane-sulfonyloxy)-6-(2-carboxyphenyl)xanthen-3-one, 0.80 g (2.20 mmol) of 3-(1-adamantyl)-4-benzyloxyphenylboronic acid [1H NMR (300 MHz, CDCl3) δ 1.77, 2.26 (2 s, 12, AdCH2), 2.07 (s, 3, AdCH), 5.21 (s, 2, CH2), 7.06 (d, J=8.2 Hz, 1, ArH), 7.3–7.5 (m, 5, ArH), 8.03 (d, J=7.8 Hz, 1, ArH), 8.19 ppm (s, 1, ArH)], 0.32 g (0.28 mmol) of Pd[P(C6H5)3]4 and 0.26 g (6.1 mmol) of LiCl in 20 ml of DME was added under Ar 3 ml of 2.0 M aq. Na2CO3. The reaction mixture was heated at reflux (80–85° C.) overnight, at which time the reaction was complete. The mixture was extracted with EtOAc. The extract was washed with brine and water, dried (MgSO4), filtered, and concentrated. Flash column chromatography (10% EtOAc/hexane) yielded a pale red (0.60 g, 44%): Rf0.45 (40% EtOAc/hexane); 1H NMR (400 MHz, CDCl3) δ 1.74, 2.19 (2 s, 12, AdCH2), 2.06 (s, 3, AdCH), 5.17 (s, 2, CH2), 6.55 (dd, J=8.0, 2.0 Hz, 1, ArH), 6.68 (d, J=8.0 Hz, 1, ArH), 6.8–7.7 (m, 16, ArH), 8.05 ppm (d, J=8.0 Hz, 1, ArH).

reactant | 9-(trifluoromethane-sulfonyloxy)-6-(2-carboxyphenyl)xanthen-3-one | 2.15 mmol, 1.00 g | FC(S(=O)(=O)OC=1C2=CC=C(C=C2OC2=CC(C=CC12)=O)C1=C(C=CC=C1)C(=O)O)(F)F | C21H11F3O7S
reactant | 3-(1-adamantyl)-4-benzyloxyphenylboronic acid | 2.20 mmol, 0.80 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC2=CC=CC=C2)B(O)O | C23H27BO3
reactant | LiCl | 6.1 mmol, 0.26 g | [Li+].[Cl-]
reactant | Na2CO3 | 2.0 M, 3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 ml | COCCOC | C4H10O2
catalyst | Pd[P(C6H5)3]4 | 0.28 mmol, 0.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 9-[3-(1-Adamantyl)-4-benzylphenyl]-6-(2-carboxyphenyl)xanthen-3-one | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2CC2=CC=CC=C2)C=2C3=CC=C(C=C3OC3=CC(C=CC23)=O)C2=C(C=CC=C2)C(=O)O | C43H36O4
